US06833421B1
1 g (2.2 mmol) (E)-3-[4-[3-[(6-chlorohexyl)oxy]-5-[hydroxymethyl]benzyloxy]-3-methoxyphenyl]acrylic acid methyl ester was added to a solution of 0.62 g (2.7 mmol) 2-cyano-(E)-3-(4-hydroxy-3-methoxyphenyl)acrylic acid methyl ester and 0.73 g (2.7 mmol) triphenylphosphine in 10 ml tetrahydrofuran. The solution was cooled to 0°C. and then 1.1 ml (2.7 mmol) of a solution of azodicarboxlic acid diethyl ester in toluene were added dropwise. The mixture was allowed to react for 1 hour at 0° C. and then it was poured into an ice cold 1 M solution of HCl. The mixture was extracted three times with tert.-butyl-methylether/ethyl acetate. The organic phase was washed with a saturated sodium bicarbonate solution and repeatedly with water, dried over magnesium sulfates filtered and concentrated in vacuum. The solid residue was first treated with diethylether, filtered and then it was recrystallized twice from tert.-butyl-methylether to give 1.1 g (79%) of (E)-3-[4-[[3-[(6-Chlorohexyl)oxy]-5-[[2-methoxy-4-[(E)-2-(methoxycarbonyl)vinyl]phenoxy]methyl]benzyl]oxy)-3-methoxyphenyl]-2-cyanoacrylic acid methyl ester in form of slightly yellow crystals.

reactant | (E)-3-[4-[3-[(6-chlorohexyl)oxy]-5-[hydroxymethyl]benzyloxy]-3-methoxyphenyl]acrylic acid methyl ester | 2.2 mmol, 1 g | COC(\C=C\C1=CC(=C(C=C1)OCC1=CC(=CC(=C1)CO)OCCCCCCCl)OC)=O | C25H31ClO6
reactant | 2-cyano-(E)-3-(4-hydroxy-3-methoxyphenyl)acrylic acid methyl ester | 2.7 mmol, 0.62 g | COC(\C(=C\C1=CC(=C(C=C1)O)OC)\C#N)=O | C12H11NO4
reactant | triphenylphosphine | 2.7 mmol, 0.73 g | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | azodicarboxlic acid diethyl ester | C(C)OC(=O)N=NC(=O)OCC | C6H10N2O4
reactant | HCl | Cl | ClH
solvent | tetrahydrofuran | 10 ml | O1CCCC1 | C4H8O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (E)-3-[4-[[3-[(6-Chlorohexyl)oxy]-5-[[2-methoxy-4-[(E)-2-(methoxycarbonyl)vinyl]phenoxy]methyl]benzyl]oxy)-3-methoxyphenyl]-2-cyanoacrylic acid methyl ester | 1.1 g, 79% | COC(\C(=C\C1=CC(=C(C=C1)OCC1=CC(=CC(=C1)COC1=C(C=C(C=C1)\C=C\C(=O)OC)OC)OCCCCCCCl)OC)\C#N)=O | C37H40ClNO9
